### PR TITLE
[ re #622 ] Better reasoning inference

### PR DESCRIPTION
**Pull request by oisdk**
As described in #622

### CODE REVIEW

File: src/Data/List/Relation/Binary/Permutation/Inductive.agda [hunk 1]
```diff
@@ -62,11 +62,22 @@ data _↭_ : Rel (List A) a where
 module PermutationReasoning where
 
   open EqReasoning ↭-setoid
-    using (_IsRelatedTo_; relTo)
+    using (_IsRelatedTo_; relTo; step-≈; step-≈˘)
 
   open EqReasoning ↭-setoid public
-    using (begin_ ; _∎ ; _≡⟨⟩_; _≡⟨_⟩_)
-    renaming (_≈⟨_⟩_ to _↭⟨_⟩_; _≈˘⟨_⟩_ to _↭˘⟨_⟩_)
```
Comment (MatthewDaggitt) [inline src/Data/List/Relation/Binary/Permutation/Inductive.agda]: Why do you need to redefine these rather than just renaming them as before?

File: src/Relation/Binary/Reasoning/MultiSetoid.agda [hunk 2]
```diff
@@ -35,13 +37,13 @@ begin⟨_⟩_ : ∀ {c l} (S : Setoid c l) {x y} → _IsRelatedTo_ S x y → [ S
 begin⟨_⟩_ S p = EqR.begin_ S p
 
 _≈⟨_⟩_ : ∀ {c l} {S : Setoid c l} x {y z} → [ S ] x ≈ y → _IsRelatedTo_ S y z → _IsRelatedTo_ S x z
-_≈⟨_⟩_ {S = S} = EqR._≈⟨_⟩_ S
```
Comment (MatthewDaggitt) [inline src/Relation/Binary/Reasoning/MultiSetoid.agda]: I'd prefer if we just filled in the arguments and defined it in terms of `_≈⟨_⟩_` as before. The less we expose the "hidden" `step` operators the better.

File: src/Data/List/Relation/Binary/Permutation/Inductive.agda (hunk 1 above)
Comment (oisdk) [reply src/Data/List/Relation/Binary/Permutation/Inductive.agda]: I didn’t think that was possible (I ran into errors when I tried to do `renaming` with the `syntax` declarations). And when I renamed the `step-` combinators, the new `syntax` declarations didn’t work.

Comment (MatthewDaggitt) [reply src/Data/List/Relation/Binary/Permutation/Inductive.agda]: Ah yes because the syntax is defined with arguments in place! We really don't want to have to redefine all the primitives every time we want to rename the combinators. Let me think...

Comment (MatthewDaggitt) [reply src/Data/List/Relation/Binary/Permutation/Inductive.agda]: Any intuition about whether we'd still get the performance increase if we made them definitions instead of syntax? Obviously there'd be a small unfolding hit, but would we still get the inference benefit? Pinging @nad

Comment (oisdk) [reply src/Data/List/Relation/Binary/Permutation/Inductive.agda]: I don't think that would work! The interface should be:

```agda
x + y
  ={ +-comm x y }
y + x
```

So if it's a definition the type checker will go:

1. x + y
2. +-comm x y
3. y + x

AFAIK, the only way to make the interface be ordered 1, 2, 3 but the *typechecking* to go 1, 3, 2 is with a syntax declaration

.

File: src/Relation/Binary/Reasoning/MultiSetoid.agda (hunk 2 above)
Comment (oisdk) [reply src/Relation/Binary/Reasoning/MultiSetoid.agda]: I think the `syntax` gets in the way here, also. I can't use the `_≈⟨_⟩_` with a qualified name (`EqR._≈⟨_⟩_`) because it's `syntax` (I think!)

Comment (WolframKahl) [reply src/Relation/Binary/Reasoning/MultiSetoid.agda]: I don't think there is any way to rename syntax right now.

What is used in many places is to make the identifier that has syntax attached to it not used for any other purpose, so that at least it becomes possible to selectively import or hide syntax via that identifier.

If a proposal such as in https://github.com/agda/agda/issues/3481#issuecomment-450597651 is implemented, `syntax` may become superfluous.

Comment (gallais) [reply src/Relation/Binary/Reasoning/MultiSetoid.agda]: It may be a bit tedious but we can of course hide the name in the import,
redefine it (as an alias to the hidden one) and add a new syntax declaration.
e.g.

```agda
open import Data.Product as P hiding (Σ-syntax)

Σ-syntax = P.Σ-syntax
syntax Σ-syntax A (λ x → B) = Σ[ x ∶ A ] B
```

**Comment by MatthewDaggitt** [comment]
I'm not sure what to do about this one. The speedup is great, but it comes at the cost of making the extension of the reasoning modules **much** more complicated. @gallais's suggestion above seems like the easiest way of doing so but it's still not concise or elegant.

This feels like a language problem really. We either need the ability to rename syntax or to have more advanced notation such as suggested in https://github.com/agda/agda/issues/3481.

Apologies @oisdk but my gut feeling is to put this on hold for the moment. Though if anyone disagrees then feel free to shout out!

File: src/Data/List/Relation/Binary/Permutation/Inductive.agda [hunk 3]
```diff
@@ -62,11 +62,22 @@ data _↭_ : Rel (List A) a where
...
+    using (begin_ ; _∎ ; _≡⟨⟩_; step-≡)
+
+  infixr 2 step-↭ step-↭˘
+
+  step-↭ : ∀ x {y z} → y IsRelatedTo z → x ↭ y → x IsRelatedTo z
+  step-↭ = step-≈
+
+  syntax step-↭ x y↭z x↭y = x ↭⟨ x↭y ⟩ y↭z
+
+  step-↭˘ : ∀ x {y z} → y IsRelatedTo z → y ↭ x → x IsRelatedTo z
```
Comment (Blaisorblade) [inline src/Data/List/Relation/Binary/Permutation/Inductive.agda]: Type declarations for `step-↭˘` and `step-↭` should be optional, right? Dropping them would cut the boilerplate for renaming-by-hand to 5 lines:

```
  infixr 2 step-↭ step-↭˘

  step-↭ = step-≈
  syntax step-↭ x y↭z x↭y = x ↭⟨ x↭y ⟩ y↭z

  step-↭˘ = step-≈˘
  syntax step-↭˘ x y↭z y↭x = x ↭˘⟨ y↭x ⟩ y↭z
```

Still annoying, but heaven compared to the verbosity of Coq or Java. (But I'd hope Agda's renaming syntax could be extended somehow to generate all this).

**Comment by MatthewDaggitt** [comment]
Closing and re-opening as @oisdk seems to have deleted and recreated his repository since was last opened, hence orphaning this PR.
